US05753652
f) N-Trifluoroacetyl-1-(p-fluorophenyl)-3-buten-2(S)-amine
Analogously to Example 16c), 364 mg (2.2 mmol) of 1-(p-fluorophenyl)-3-buten-2(S)amine in 1.8 ml of methylene chloride and 5.4 ml of pyridine are reacted with 460 μl (3.3 mmol) of trifluoroacetic acid anhydride to yield the title compound, which after digestion with hexane is obtained in pure form: TLC Rf (F)=0.58; MS (M)+ =261.

reactant | 1-(p-fluorophenyl)-3-buten-2(S)amine | 2.2 mmol, 364 mg | FC1=CC=C(C=C1)C[C@@H](C=C)N | C10H12FN
reactant | trifluoroacetic acid anhydride | 3.3 mmol, 460 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hexane | CCCCCC | C6H14
solvent | methylene chloride | 1.8 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5.4 ml | N1=CC=CC=C1 | C5H5N
product | N-Trifluoroacetyl-1-(p-fluorophenyl)-3-buten-2(S)-amine | FC(C(=O)N[C@@H](CC1=CC=C(C=C1)F)C=C)(F)F | C12H11F4NO
